US08080566B1
A 150-mL round-bottom flask was placed a solution of methyl 2-hydrazinylbenzoate (7.81 g, 1.00 equiv, 1%) in AcOH (70 mL). To this solution was added cyclohexanone (4.5 g, 45.92 mmol, 1.00 equiv) dropwise with stirring at 80° C. The resulting solution was heated to reflux for 2 hr in an oil bath. Upon completion, the reaction was then quenched with water (50 mL). The solids were collected by filtration and washed with H2O (2×50 mL) affording methyl 6,7,8,9-tetrahydro-5H-carbazole-1-carboxylate as white solid (6 g, 55.8%).

reactant | methyl 2-hydrazinylbenzoate | 7.81 g, 1.00 equiv | N(N)C1=C(C(=O)OC)C=CC=C1 | C8H10N2O2
reactant | cyclohexanone | 45.92 mmol, 4.5 g, 1.00 equiv | C1(CCCCC1)=O | C6H10O
solvent | AcOH | 70 mL | CC(=O)O | C2H4O2
product | methyl 6,7,8,9-tetrahydro-5H-carbazole-1-carboxylate | 6 g, 55.8% | C1(=CC=CC=2C=3CCCCC3NC12)C(=O)OC | C14H15NO2
